US09023851B2
[8-(3-Aminomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-(3,5-dimethoxy-phenyl)-amine (“C114”)
To a solution of (8-chloro-[1,2,4]triazolo[1,5-a]pyrazine-2-yl]-(3,5-dimethoxy-phenyl)-amine (0.2 g, 0.65 mmol, 1 eq) in a mixture of dimethoxy ethane (3 ml) and water (1 ml), 3-aminomethylphenyl boronic acid (0.28 g, 1.31 mmol, 2 eq), sodium carbonate (0.14 g, 1.31 mmol, 2 eq)) and dichlorobis(triphenyl-phospine)palladium (II) (0.023 g, 0.03 mmol, 5%) are taken in a microwave vial and heated at 120° C. for 2 hours. The reaction mixture is concentrated and the residue is taken in dichloromethane (10 ml×1), washed with brine solution (10 ml×1), the organic layer is dried over anhydrous MgSO4 and concentrated. The crude product obtained is purified by silica gel column using (230-400) mesh to get the titled product as yellow solid.

reactant | (8-chloro-[1,2,4]triazolo[1,5-a]pyrazine-2-yl]-(3,5-dimethoxy-phenyl)-amine | 0.65 mmol, 0.2 g, 1 eq | ClC=1C=2N(C=CN1)N=C(N2)NC2=CC(=CC(=C2)OC)OC | C13H12ClN5O2
reactant | 3-aminomethylphenyl boronic acid | 1.31 mmol, 0.28 g, 2 eq | NCC=1C=C(C=CC1)B(O)O | C7H10BNO2
reactant | sodium carbonate | 1.31 mmol, 0.14 g, 2 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxy ethane | 3 ml | C(OC)COC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | dichlorobis(triphenyl-phospine)palladium (II) | 0.03 mmol, 0.023 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [8-(3-Aminomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-(3,5-dimethoxy-phenyl)-amine | NCC=1C=C(C=CC1)C=1C=2N(C=CN1)N=C(N2)NC2=CC(=CC(=C2)OC)OC | C20H20N6O2
